US05668148
To 10 mL round bottomed flask with a stirring bar and an argon inlet was added 4-(1-(3-hydroxy-1-oxo-3-(3-pyridinyl)-2-propenyl)piperidine dihydrochloride (400mg, 1.31 mmol), 1-(2-bromoethyl)naphthalene (616 mg, 2.62 mmol) dry DMF (5 mL), and diisopropylethylamine (1.74 mL, 10 mmol). This mixture was heated at 60° C. for 24 h. The DMF was removed in vacuo and the residue was dissolved in EtOAc. This solution was washed with saturated aqueous NaHCO3, H2O and brine. Drying (Na2SO4), filtration and removal of the solvent in vacuo gave an orange oil. This material was chromatographed on 30 g of silica gel using 5% 2-propanol in NH3 saturated CHCl3 as eluant. 1-(2-(1-naphthyl)ethyl)-4-(1-(3-hydroxy-1-oxo-3-(3-pyridinyl)-2-propenyl)piperidine was obtained as a white solid.

reactant | 1-(3-hydroxy-1-oxo-3-(3-pyridinyl)-2-propenyl)piperidine dihydrochloride | 1.31 mmol, 400mg | Cl.Cl.OC(=CC(=O)N1CCCCC1)C=1C=NC=CC1
reactant | 1-(2-bromoethyl)naphthalene | 2.62 mmol, 5 mL, 616 mg | BrCCC1=CC=CC2=CC=CC=C12 | C12H11Br
reactant | diisopropylethylamine | 10 mmol, 1.74 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | 1-(3-hydroxy-1-oxo-3-(3-pyridinyl)-2-propenyl)piperidine | OC(=CC(=O)N1CCCCC1)C=1C=NC=CC1 | C13H16N2O2
